US06320050B1
A solution of (4-methylsulfanyl-phenyl)-acetic acid methyl ester (5.11 g, 26.03 mmol) in carbon tetrachloride (130 mL) was slowly treated with bromine (1.74 mL, 33.84 mmol). The reaction mixture was stirred at 25° C. for 4 h, at which time, thin layer chromatography still indicated the presence of a substantial amount of starting material. The reaction mixture was treated with more bromine (1.74 mL, 33.84 mmol). The reaction mixture was stirred an additional 4 h at 25° C. and then quenched with a 10% aqueous sodium bisulfite solution (150 mL). The reaction mixture was concentrated in vacuo to remove carbon tetrachloride. The resulting aqueous layer was extracted with ethyl acetate (3×150 mL). The combined organic layers were dried over sodium sulfate, filtered and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 70-230 mesh, 9/1 hexanes/ethyl acetate) afforded (3-bromo-4-methylsulfanyl-phenyl)-acetic acid methyl ester (6.10 g, 85%) as a light yellow oil: EI-HRMS m/e calcd for C10H11BrO2S (M+) 273.9663, found 273.9661.

reactant | (4-methylsulfanyl-phenyl)-acetic acid methyl ester | 26.03 mmol, 5.11 g | COC(CC1=CC=C(C=C1)SC)=O | C10H12O2S
reactant | bromine | 33.84 mmol, 1.74 mL | BrBr | Br2
reactant | bromine | 33.84 mmol, 1.74 mL | BrBr | Br2
solvent | carbon tetrachloride | 130 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | (3-bromo-4-methylsulfanyl-phenyl)-acetic acid methyl ester | 6.10 g, 85% | COC(CC1=CC(=C(C=C1)SC)Br)=O | C10H11BrO2S
